US08633173B2
N(2)-[4-(4-Methyl-piperazin-1-yl)-phenyl]-N(8)-pyridin-3-ylmethyl-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine was prepared from (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-pyridin-3-ylmethyl-amine (75.0 mg, 0.289 mmol) and 4-(4-methyl-piperazin-1-yl)-phenylamine (61.0 mg, 0.319 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a tan foam (0.075 g, 63%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.66 (s, 1H), 8.55 (d, J=4.1 Hz, 1H), 7.83 (d, J=6.5 Hz, 1H), 7.72 (d, J=7.8 Hz, 1H), 7.47 (d, J=8.9 Hz, 2H), 7.31-7.25 (m, 1H), 6.95 (d, J=8.9 Hz, 2H), 6.66 (t, J=7.3 Hz, 1H), 6.57 (s, 1H), 6.30 (d, J=7.7 Hz, 1H), 5.08 (t, J=5.6 Hz, 1H), 4.50 (d, J=5.8 Hz, 2H), 3.17-3.13 (m, 4H), 2.62-2.57 (m, 4H), 2.36 (s, 3H). MS=415 (MH)+.

reactant | (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-pyridin-3-ylmethyl-amine | 0.289 mmol, 75.0 mg | ClC1=NN2C(C(=CC=C2)NCC=2C=NC=CC2)=N1 | C12H10ClN5
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.319 mmol, 61.0 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N(2)-[4-(4-Methyl-piperazin-1-yl)-phenyl]-N(8)-pyridin-3-ylmethyl-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)NCC=2C=NC=CC2)=N1 | C23H26N8
